US07759369B2
6-[(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarbonitrile
A solution of 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-2-pyridinecarboxamide (115 mg) in phosphoryl chloride (1.25 ml) was stirred at 60° C. for 5 hours. Excess phosphoryl chloride was removed in vacuo and ethyl acetate (5 ml) added. The solution was washed with saturated sodium bicarbonate solution (5 ml), and the aqueous layer extracted with ethyl acetate (5 ml). The combined extracts were washed with brine (5 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by mass-directed autopreparation to afford the title compound (93 mg, 85%) as a white solid.

reactant | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-2-pyridinecarboxamide | 115 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)N)OCC1=C(C=C(C=C1)Cl)F | C20H15Cl2FN2O2
solvent | phosphoryl chloride | 1.25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-[(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarbonitrile | 93 mg, 85% | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C#N)OCC1=C(C=C(C=C1)Cl)F | C20H13Cl2FN2O
